US06255349B1
N-{4-[3-(5-Chloro-2,4-dimethoxy-phenyl)-ureido]-phenyl}-2-fluoro-benzamide
A suspension of N-(4-amino-phenyl)-2-fluoro-benzamide (0.43 g) in acetonitrile (4 mL) is treated with 5-chloro-2,4-dimethoxyphenylisocyanate (0.40 g). The mixture becomes a solution and is allowed to stand for 12 hours. A white solid forms and is collected by filtration (0.79 g). [M+H]444.

reactant | N-(4-amino-phenyl)-2-fluoro-benzamide | 0.43 g | NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)F)=O | C13H11FN2O
reactant | 5-chloro-2,4-dimethoxyphenylisocyanate | 0.40 g | ClC=1C(=CC(=C(C1)N=C=O)OC)OC | C9H8ClNO3
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-{4-[3-(5-Chloro-2,4-dimethoxy-phenyl)-ureido]-phenyl}-2-fluoro-benzamide | ClC=1C(=CC(=C(C1)NC(NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)F)=O)=O)OC)OC | C22H19ClFN3O4
